US04734419
A mixture of 2-amino-4-bromo-N-(2-fluoro-4-iodobenzyl)benzamide (3.80 g), N,N'-carbonyldiimidazole (5.5 g) and 1,4-dioxane (30 ml) was refluxed for 2 hours. The resulting crystals were collected by filtration, washed with 1,4-dioxane and dried over phosphorus pentoxide to give 7-bromo-3-(2-fluoro-4-iodobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline (2.85 g).

reactant | 2-amino-4-bromo-N-(2-fluoro-4-iodobenzyl)benzamide | 3.80 g | NC1=C(C(=O)NCC2=C(C=C(C=C2)I)F)C=CC(=C1)Br | C14H11BrFIN2O
reactant | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 7-bromo-3-(2-fluoro-4-iodobenzyl)-1,2,3,4-tetrahydro-2,4-dioxoquinazoline | 2.85 g | BrC1=CC=C2C(N(C(NC2=C1)=O)CC1=C(C=C(C=C1)I)F)=O | C15H9BrFIN2O2
